US06635657B1
Preparation of N-(5-Chloropyridin-2-yl)-6-fluoro-2-[(1-isopropylpiperidin-4-ylcarbonyl)amino]benzamide
Using methods substantially equivalent to those described in Example 231-E, N-(5-chloropyridin-2-yl)-6-fluoro-2-[(1-isopropylpiperidin-4-ylcarbonyl)amino]benzamide hydrochloride (0.345 g, 80%) was prepared from N-(5-chloropyridin-2-yl)-6-fluoro-2-[(4-piperidinylcarbonyl)amino]-benzamide trifluoroacetate.

reactant | N-(5-chloropyridin-2-yl)-6-fluoro-2-[(1-isopropylpiperidin-4-ylcarbonyl)amino]benzamide hydrochloride | 0.345 g | Cl.ClC=1C=CC(=NC1)NC(C1=C(C=CC=C1F)NC(=O)C1CCN(CC1)C(C)C)=O
reactant | N-(5-chloropyridin-2-yl)-6-fluoro-2-[(4-piperidinylcarbonyl)amino]-benzamide trifluoroacetate | FC(C(=O)O)(F)F.ClC=1C=CC(=NC1)NC(C1=C(C=CC=C1F)NC(=O)C1CCNCC1)=O
product | N-(5-Chloropyridin-2-yl)-6-fluoro-2-[(1-isopropylpiperidin-4-ylcarbonyl)amino]benzamide | ClC=1C=CC(=NC1)NC(C1=C(C=CC=C1F)NC(=O)C1CCN(CC1)C(C)C)=O | C21H24ClFN4O2
